US03970704
To a solution of 1.90 g. of 11-methoxy-3,7,11-trimethyldodeca-2,4-dien-1-ol in 20 ml. of ether is added a solution of 0.80 g. of phosphorus tribromide in 10 ml. of ether, under nitrogen, with stirring at -50°. The reaction mixture is stirred for three hours at -60° to -40° and then poured into ice water, which is then washed with sodium bicarbonate solution water and brine, dried over calcium sulfate and evaporated under reduced pressure to yield 11-methoxy-3,7,11-trimethyldodeca-2,4-dienyl bromide.

reactant | 11-methoxy-3,7,11-trimethyldodeca-2,4-dien-1-ol | COC(CCCC(CC=CC(=CCO)C)C)(C)C | C16H30O2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | ether | CCOCC | C4H10O
product | 11-methoxy-3,7,11-trimethyldodeca-2,4-dienyl bromide | COC(CCCC(CC=CC(=CCBr)C)C)(C)C | C16H29BrO
